US06844336B2
a) 4-(Methylsulfinyl)-benzaldehyde
220 mg of 2-[4-(3-chloro-1-thiapropyl)-phenyl]-7-hydroxy-3-(4-hydroxyphenyl)-4-(trifluoromethyl)-2H-1-benzopyran in 2 ml of piperidine is mixed with 42.7 mg of potassium iodide and stirred for 6 hours at 100° C. After cooling, it is poured into water and shaken out three times with ethyl acetate. The combined organic phases are washed twice with water, dried on magnesium sulfate and concentrated by evaporation in a rotary evaporator. The purification of the product is carried out on silica gel with dichloromethane/methanol-9:1. 274 mg of product accumulates.

reactant | 2-[4-(3-chloro-1-thiapropyl)-phenyl]-7-hydroxy-3-(4-hydroxyphenyl)-4-(trifluoromethyl)-2H-1-benzopyran | 220 mg | ClCCSC1=CC=C(C=C1)C1OC2=C(C(=C1C1=CC=C(C=C1)O)C(F)(F)F)C=CC(=C2)O | C24H18ClF3O3S
reactant | potassium iodide | 42.7 mg | [I-].[K+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | piperidine | 2 ml | N1CCCCC1 | C5H11N
product | 4-(Methylsulfinyl)-benzaldehyde | CS(=O)C1=CC=C(C=O)C=C1 | C8H8O2S
